* Z:\mnt\design.r\spice\examples\1475.asc
V1 IN 0 10
L1 N001 OUT 100µ
D1 0 N001 MBR0530L
R2 OUT N004 1.68Meg
R3 N004 0 1Meg
C1 OUT 0 100µ
XU1 N004 N002 IN 0 N001 IN IN N003 LTC1475 top=10 bot=1T
Rload OUT 0 20
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
.lib LTC1475.sub
.backanno
.end
